US04122183
2-(N-Butyl-isobutyramido)-4-isopropyloxazole
2-(N-Butylamino)-4-isopropyloxazole was acylated with isobutyryl chloride as described in Example 9.

reactant | 2-(N-Butylamino)-4-isopropyloxazole | C(CCC)NC=1OC=C(N1)C(C)C | C10H18N2O
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 2-(N-Butyl-isobutyramido)-4-isopropyloxazole | C(CCC)N(C(C(C)C)=O)C=1OC=C(N1)C(C)C | C14H24N2O2
